### PR TITLE
Fix next Revm v103 compile slice

### PR DESCRIPTION
**Pull request by cascade77**
This PR fixes the next Revm v103 compile slice found by make.

Changes:
- wires MemoryTr.local_memory_offset through links, simulate, and tests
- updates call_helpers links for the v103 get_memory_input_and_out_ranges return type
- removes stale call_helpers calc_call_gas link for a generated function that no longer exists
- updates gas simulate naming from call_cost to calc_call_static_gas
- removes stale Eip7702CodeLoad into_components_eq for a removed generated function
- adds Range field subpointers needed by generated field access
- corrects generated Range.end field access to the translated field name end_

Checked:
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/instructions/contract/links/call_helpers.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_context_interface/simulate/journaled_state.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/gas/simulate/calc.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/links/interpreter_types.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/simulate/interpreter_types.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/tests/interpreter_types.vo

### CODE REVIEW

File: RocqOfRust/revm/revm_interpreter/instructions/contract/links/call_helpers.v [hunk 1]
```diff
@@ -36,14 +36,29 @@ Instance run_resize_memory
     (option (Range.t usize)).
 Proof.
   constructor.
+  destruct run_InterpreterTypes_for_WIRE eqn:?.
+  destruct run_LoopControl_for_Control.
+  destruct run_MemoryTrait_for_Memory.
   run_symbolic.
+  all: first [
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/contract/links/call_helpers.v:43]: We can keep this proof. At some point, we will need to investigate the `run_symbolic` tactic to make it able to handle all automatically, without needing to add special calls for the remaining bits.

File: RocqOfRust/revm/revm_interpreter/instructions/contract/call_helpers.v [hunk 2]
```diff
@@ -458,7 +458,7 @@ Module instructions.
                                                       M.SubPointer.get_struct_record_field (|
                                                         in_range,
                                                         "core::ops::range::Range",
-                                                        "end"
+                                                        "end_"
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/instructions/contract/call_helpers.v]: Without modifying the translated code.

We should create a file `code_review.md` that lists all the rules like this one, so that the AI can accumulate these facts.

File: RocqOfRust/revm/revm_interpreter/links/interpreter_types.v [hunk 3]
```diff
@@ -276,6 +276,13 @@ Module MemoryTrait.
     run_size (self : '& Self) :: Run.Trait size [] [] [ φ self ] usize;
   }.
 
+  Class Method_local_memory_offset (Self : Set) `{Link Self} : Set := {
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/links/interpreter_types.v:279]: 👍

File: RocqOfRust/revm/revm_interpreter/tests/interpreter_types.v [hunk 4]
```diff
@@ -50,10 +50,26 @@ Module Memory.
       end
     end.
 
+  Lemma take_pad_length (len : nat) (l : list u8) :
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/tests/interpreter_types.v]:
```suggestion
  Lemma take_pad_length_eq (len : nat) (l : list u8) :
```

File: RocqOfRust/revm/revm_interpreter/tests/interpreter_types.v [hunk 5]
```diff
@@ -50,10 +50,26 @@ Module Memory.
...
+    revert l.
+    induction len as [| len IH]; intros l; cbn; [reflexivity|].
+    destruct l; cbn; rewrite IH; reflexivity.
+  Qed.
+
   (** Get a slice of memory, returning zeros for out-of-bounds *)
   Definition slice (self : t) (offset len : usize) : list u8 :=
     take_pad (Z.to_nat i[len]) (List.skipn (Z.to_nat i[offset]) self.(value)).
 
+  Lemma slice_length (self : t) (offset len : usize) :
```
Comment (clarus) [inline RocqOfRust/revm/revm_interpreter/tests/interpreter_types.v]:
```suggestion
  Lemma slice_length_eq (self : t) (offset len : usize) :
```

File: RocqOfRust/core/ops/links/range.v
Comment (clarus) [inline RocqOfRust/core/ops/links/range.v:24]:
```suggestion
        ("end", φ x.(end_));
```
I think this is the change to fit the translated code.

**Comment by cascade77** [comment]
I pushed the review fixes.

I reverted the change in the translated call_helpers file, so that generated file is back to the translated output.

For the Range issue, I first tried the suggested change of exposing the field as "end" in the main link representation. That made the field access line up, but it broke the places where generated code constructs Range values, because those constructors still use the escaped Rocq field name "end_".

So I kept the canonical Range representation with "end_", and added a separate link-side subpointer for field access through the Rust name "end". The validity lemma for that extra subpointer is admitted for now, because it is bridging this generated-name mismatch rather than changing the generated code by hand.

I also renamed the two helper lemmas with the _eq suffix, and added the Revm v103 notes under docs/ with AGENT.md pointing to them.

The two focused checks pass locally:
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/instructions/contract/links/call_helpers.vo
- PATH=/tmp/codex-bin:$PATH make -k revm/revm_interpreter/tests/interpreter_types.vo

File: AGENT.md [hunk 6]
```diff
@@ -0,0 +1,5 @@
+# Agent Notes
```
Comment (clarus) [inline AGENT.md:1]: 👍

**Review by clarus — APPROVED** [review]
